US04250085
In a manner analogous to that described in Example 3(ii), from the monobenzylamine salt of (1R)-1-[(N-benzyloxycarbonyl-L-seryl)amino]-ethylphosphonic acid there was obtained (1R)-1-(L-serylamino)-ethylphosphonic acid of melting point 250°-251° C. (decomposition); [α]D20 =-41.7° (c=0.5% in water).

reactant | monobenzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | (1R)-1-[(N-benzyloxycarbonyl-L-seryl)amino]-ethylphosphonic acid | C(C1=CC=CC=C1)OC(=O)N[C@@H](CO)C(=O)N[C@@H](C)P(O)(O)=O | C13H19N2O7P
product | (1R)-1-(L-serylamino)-ethylphosphonic acid | N[C@@H](CO)C(=O)N[C@@H](C)P(O)(O)=O | C5H13N2O5P
